US08895544B2
5-Ethyl-2-fluoro-4-{3-[5-(3-hydroxy-benzyl)-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl]-1H-indazol-6-yl}-phenol
The title compound was prepared from 3-hydroxy-benzaldehyde (24.2 mg, 198 μmol) and 5-ethyl-2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol trihydrobromide salt (Preparation 25, 50 mg, 132 μmol) using the method of Example 18. The crude material was purified by HPLC Method A to afford 39.6 mg of the title compound.

reactant | 3-hydroxy-benzaldehyde | 198 μmol, 24.2 mg | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | 5-ethyl-2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol trihydrobromide salt | 132 μmol, 50 mg | Br.Br.Br.C(C)C=1C(=CC(=C(C1)O)F)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CNCC2)N1
product | 5-Ethyl-2-fluoro-4-{3-[5-(3-hydroxy-benzyl)-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl]-1H-indazol-6-yl}-phenol | 39.6 mg | C(C)C=1C(=CC(=C(C1)O)F)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CN(CC2)CC2=CC(=CC=C2)O)N1 | C28H26FN5O2
